US07723349B2
To a stirred solution of 2-isopropylphenol (2.0 g) in acetic acid (20 mL) was added hydrobromic acid (48%, 10 mL) followed by dropwise addition of DMSO (10 mL). The mixture was stirred another 20 min and diluted with water, extracted with diethyl ether. The combined extract was washed with saturated NaHCO3, water, brine, dried and concentrated to give the product 4-bromo-2-isopropylphenol (2.2 g, HPLC purity 95%).

reactant | 2-isopropylphenol | 2.0 g | C(C)(C)C1=C(C=CC=C1)O | C9H12O
reactant | hydrobromic acid | 10 mL | Br | BrH
reactant | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-bromo-2-isopropylphenol | 2.2 g | BrC1=CC(=C(C=C1)O)C(C)C | C9H11BrO
